US09416132B2
A mixture of hydrochloride salt of trans-4-aminocyclohexanecarboxylic acid (720 g), BnBr (1700 g, 2.5 eq) and K2CO3 in DMF (8000 mL) was stirred at rt overnight. More BnBr (100 g) was added and the reaction mixture was heated to 50° C. and kept for 3 hrs. The reaction mixture was then poured into water and extracted with EtOAc and combined organic phase washed with brine and concentrated in vacuo to give crude trans-benzyl 4-(dibenzylamino)cyclohexanecarboxylate as white solid (1495 g, 93.9% yield).

reactant | trans-4-aminocyclohexanecarboxylic acid | 720 g | N[C@@H]1CC[C@H](CC1)C(=O)O | C7H13NO2
reactant | BnBr | 1700 g, 2.5 eq | C1=CC=C(C=C1)CBr | C7H7Br
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | BnBr | 100 g | C1=CC=C(C=C1)CBr | C7H7Br
reactant | water | O | H2O
solvent | DMF | 8000 mL | CN(C)C=O | C3H7NO
product | trans-benzyl 4-(dibenzylamino)cyclohexanecarboxylate | 1495 g, 93.9% yield | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C28H31NO2
